US08283353B2
4′-{[4-(1-ethylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[4-(1-benzylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (4.82 g), 10% palladium-carbon (2.39 g), tetrahydrofuran (30 mL) and ethanol (60 mL) was stirred at room temperature for 2 days under a hydrogen atmosphere. The reaction mixture was filtered, and the solvent was evaporated. The residue was purified by basic silica gel chromatography [eluent: methanol/ethyl acetate=0/10→05/95 (volume ratio)] to give the title compound as a colorless amorphous compound (146 mg, 3%).

reactant | 4′-{[4-(1-benzylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 4.82 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C34H34N6O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 2.39 g | [C].[Pd]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4′-{[4-(1-ethylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | C(C)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H32N6O
